### PR TITLE
Add AlgorithmDensity

### PR DESCRIPTION
**Pull request by paulorauber**

### CODE REVIEW

File: LeanMachineLearning/Probability/Kernel/Composition/MeasureCompProd.lean [hunk 1]
```diff
@@ -0,0 +1,31 @@
+/-
+Copyright (c) 2026 Rémy Degenne. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Rémy Degenne, Paulo Rauber
```
Comment (RemyDegenne) [inline LeanMachineLearning/Probability/Kernel/Composition/MeasureCompProd.lean]:
```suggestion
Copyright (c) 2026 Paulo Rauber. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Rémy Degenne, Paulo Rauber
```
You wrote that file, so your name gets the copyright. And keep me in the authors only when I contributed something to the code. Same remarks for all files.

File: LeanMachineLearning/Probability/WithDensity.lean [hunk 2]
```diff
@@ -0,0 +1,127 @@
...
+
+lemma compProd_withDensity_withDensity [SFinite μ] {κ : Kernel α β} [IsSFiniteKernel κ]
+    {f : α → ℝ≥0∞} {g : α → β → ℝ≥0∞} (hf : Measurable f) (hg : Measurable (Function.uncurry g))
+    [IsSFiniteKernel (κ.withDensity g)] :
+    (μ.withDensity f) ⊗ₘ (κ.withDensity g) =
+      (μ ⊗ₘ κ).withDensity (fun ac ↦ f ac.1 * g ac.1 ac.2) := by
+  rw [compProd_withDensity hg, compProd_withDensity_left hf]
+  exact (withDensity_mul _ (hf.comp measurable_fst) hg).symm
+
+/-- A proof based on `compProd_congr` requires `IsSFiniteKernel (η.withDensity fun _ b ↦ f b)`. -/
```
Comment (RemyDegenne) [inline LeanMachineLearning/Probability/WithDensity.lean]: This docstring comment is what appears in the tooltip window when hovering over the lemma name, so should be about the lemma itself, not its proof. If you want to add comments about the proof, put them inside the proof.

File: LeanMachineLearning/Probability/WithDensity.lean [hunk 3]
```diff
@@ -0,0 +1,127 @@
...
+  calc ∫⁻ ab, g ab ∂(μ ⊗ₘ κ)
+      = ∫⁻ a, ∫⁻ b, g (a, b) ∂κ a ∂μ :=
+        lintegral_compProd hg
+    _ = ∫⁻ a, ∫⁻ b, g (a, b) ∂((η a).withDensity f) ∂μ := by
+        apply lintegral_congr_ae
+        filter_upwards [h] with a ha
+        rw [ha, Kernel.withDensity_apply _ (by fun_prop)]
+    _ = ∫⁻ a, ∫⁻ b, f b * g (a, b) ∂η a ∂μ := by
+        congr
+        ext a
```
Comment (RemyDegenne) [inline LeanMachineLearning/Probability/WithDensity.lean]:
```suggestion
        congr with a
```
Should work.

File: LeanMachineLearning/Probability/WithDensity.lean [hunk 4]
```diff
@@ -0,0 +1,127 @@
...
+    _ = ∫⁻ ab, f ab.2 * g ab ∂(μ ⊗ₘ η) :=
+        (lintegral_compProd ((hf.comp measurable_snd).mul hg)).symm
+    _ = ∫⁻ ab, g ab ∂((μ ⊗ₘ η).withDensity (fun ab ↦ f ab.2)) :=
+        (lintegral_withDensity_eq_lintegral_mul _ (hf.comp measurable_snd) hg).symm
+
+end MeasureTheory.Measure
+
+namespace ProbabilityTheory.Kernel
+
+lemma bind_withDensity_eq_withDensity_bind {κ : Kernel α β} [IsSFiniteKernel κ] {f : β → ℝ≥0∞}
```
Comment (RemyDegenne) [inline LeanMachineLearning/Probability/WithDensity.lean]: Mathlib uses `bind` in names only when setting up the Giry monad, but once we talk about kernels we call that a composition, with `comp`.

```suggestion
lemma comp_withDensity_eq_withDensity_comp {κ : Kernel α β} [IsSFiniteKernel κ] {f : β → ℝ≥0∞}
```

File: LeanMachineLearning/Probability/WithDensity.lean [hunk 5]
```diff
@@ -0,0 +1,127 @@
...
+    (hf : Measurable f) : (κ.withDensity (fun _ b ↦ f b)) ∘ₘ μ = (κ ∘ₘ μ).withDensity f := by
+  refine Measure.ext_of_lintegral _ fun g hg ↦ ?_
+  calc ∫⁻ b, g b ∂((κ.withDensity (fun _ b ↦ f b)) ∘ₘ μ)
+      = ∫⁻ a, ∫⁻ b, g b ∂(κ.withDensity (fun _ b ↦ f b)) a ∂μ :=
+        Measure.lintegral_bind (measurable _).aemeasurable hg.aemeasurable
+    _ = ∫⁻ a, ∫⁻ b, f b * g b ∂κ a ∂μ := by
+        congr
+        ext a
```
Comment (RemyDegenne) [inline LeanMachineLearning/Probability/WithDensity.lean]:
```suggestion
        congr with a
```

File: LeanMachineLearning/SequentialLearning/Algorithm.lean [hunk 6]
```diff
@@ -55,6 +55,22 @@ structure Algorithm (𝓐 𝓨 : Type*) [MeasurableSpace 𝓐] [MeasurableSpace
 instance (alg : Algorithm 𝓐 𝓨) (n : ℕ) : IsMarkovKernel (alg.policy n) := alg.h_policy n
 instance (alg : Algorithm 𝓐 𝓨) : IsProbabilityMeasure alg.p0 := alg.hp0
 
+/-- For every time and history, the distribution over actions according to `alg` is absolutely
+continuous with respect to the distribution over actions according to `alg₀`. -/
+structure Algorithm.AbsolutelyContinuous (alg alg₀ : Algorithm 𝓐 𝓨) : Prop where
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/Algorithm.lean]: Please mention the two new definitions in the file docstring.

File: LeanMachineLearning/SequentialLearning/AlgorithmDensity.lean [hunk 7]
```diff
@@ -0,0 +1,135 @@
...
+Copyright (c) 2026 Rémy Degenne. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Rémy Degenne, Paulo Rauber
+-/
+module
+
+public import LeanMachineLearning.Probability.Kernel.Composition.MeasureCompProd
+public import LeanMachineLearning.Probability.WithDensity
+public import LeanMachineLearning.SequentialLearning.Algorithm
+
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/AlgorithmDensity.lean:11]: Please add a file docstring to describe the what this file is about (main definitions, main results).

File: LeanMachineLearning/SequentialLearning/AlgorithmDensity.lean [hunk 8]
```diff
@@ -0,0 +1,135 @@
...
+@[fun_prop]
+lemma measurable_density [MeasurableSpace.CountablyGenerated α] (alg alg₀ : Algorithm α R) (n : ℕ) :
+    Measurable (alg.density alg₀ n) := by
+  induction n with
+  | zero =>
+    simp_rw [density]
+    fun_prop
+  | succ n ih =>
+    simp_rw [density]
+    fun_prop
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/AlgorithmDensity.lean]:
```suggestion
  | zero => simp_rw [density]; fun_prop
  | succ n ih => simp_rw [density]; fun_prop
```

File: LeanMachineLearning/SequentialLearning/AlgorithmDensity.lean [hunk 9]
```diff
@@ -0,0 +1,135 @@
...
+
+end Algorithm
+
+namespace IsAlgEnvSeq
+
+variable {Ω : Type*} [MeasurableSpace Ω]
+variable [StandardBorelSpace α] [Nonempty α] [StandardBorelSpace R] [Nonempty R]
+variable {alg : Algorithm α R} {env : Environment α R}
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/AlgorithmDensity.lean]: Could you use the same notations as in the Algorithm.lean file? `Algorithm 𝓐 𝓨`

File: LeanMachineLearning/SequentialLearning/AlgorithmDensity.lean [hunk 10]
```diff
@@ -0,0 +1,135 @@
...
+variable {A : ℕ → Ω → α} {R' : ℕ → Ω → R}
+variable {P : Measure Ω} [IsFiniteMeasure P]
+
+lemma hasLaw_hist_zero (h : IsAlgEnvSeq A R' alg env P) : HasLaw (hist A R' 0)
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/AlgorithmDensity.lean]: This lemma and the next one should go to Algorithm.lean

File: LeanMachineLearning/SequentialLearning/Algorithm.lean (hunk 6 above)
Comment (RemyDegenne) [reply LeanMachineLearning/SequentialLearning/Algorithm.lean]: And perhaps `Algorithm.AbsolutelyContinuous` could be moved to AlgorithmDensity.lean, where you prove some properties of it?

**Review by RemyDegenne — APPROVED** [review]
Looks good!
